US04279918
2-(4-nitrobenzyl)-1-methylpyrrolidine
Dissolve 27.9 g of 2-benzyl-1-methylpyrrolidine in 130 ml of conc. sulfuric acid, and add 100 ml of conc. nitric acid dropwise at 0°, with stirring, to the resulting solution. Continue stirring for a further 30 minutes at room temperature. Pour the mixture into 1 liter of ice water and alkalize with sodium hydroxide solution, with cooling. Extract the thus-produced preparation 4 times with, in each case, 150 ml of diethyl ether. Dry the ether phase over sodium sulfate and concentrate it to a red oil to obtain the title compound at a yield of 33.8 g (96% of theory). The hydrogen fumarate (from isopropanol) melts at 145° to 146°.

reactant | 2-benzyl-1-methylpyrrolidine | 27.9 g | C(C1=CC=CC=C1)C1N(CCC1)C | C12H17N
reactant | nitric acid | 100 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 130 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(4-nitrobenzyl)-1-methylpyrrolidine | [N+](=O)([O-])C1=CC=C(CC2N(CCC2)C)C=C1 | C12H16N2O2
